US08802661B2
Preparation of 5-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)thiophene-2-carboxylic acid
A mixture of methyl 5-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)thiophene-2-carboxylate (60 mg, 0.092 mmol) and sodium hydroxide (0.028 mL, 0.277 mmol) in dioxane (2 mL) was heated up at 70° C. for 3 hours. LCMS indicated the formation of desired product. The reaction mixture was filtered and purified by prep HPLC to give the title compound as a white solid (6.4 mg, 10%). LCMS: m/e 635.35 (M+H)+, 2.18 min (method 1). 1H NMR (500 MHz, DMSO-d6) δ ppm 7.49 (t, J=5.65 Hz, 1H), 7.37 (br. s., 1H), 6.86 (d, J=3.66 Hz, 1H), 5.72 (d, J=4.88 Hz, 1H), 4.67 (d, J=2.44 Hz, 1H), 4.55 (s, 1H), 3.21 (td, J=13.20, 6.56 Hz, 1H), 3.08-2.98 (m, 2H), 2.61-2.53 (m, 1H), 2.26 (td, J=6.79, 2.29 Hz, 2H), 2.15 (s, 6H), 2.15-2.06 (m, 2H), 1.64 (s, 3H), 1.82-1.04 (m, 19H), 1.03 (s, 3H), 1.01 (s, 3H), 0.94 (s, 3H), 0.91 (s, 3H), 0.87 (s, 3H).

reactant | methyl 5-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)thiophene-2-carboxylate | 0.092 mmol, 60 mg | CN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(S1)C(=O)OC)C)[C@@H](CC2)C(=C)C)C | C40H60N2O3S
reactant | sodium hydroxide | 0.277 mmol, 0.028 mL | [OH-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)thiophene-2-carboxylic acid | CN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(S1)C(=O)O)C)[C@@H](CC2)C(=C)C)C | C39H58N2O3S
